US06894169B1
N-(6-hydoxyhexyl)-4-picolinium bromide (Ic)
6-Bromo-1-hexanol (27.61 mmol), 4-picoline (30.07 mmol) and absolute ethanol (16 mL) were added to a 3-neck, round-bottomed flask, and were heated at reflux The reaction was stopped after 36 hours. The solvent was removed under vacuum and the residue was washed with diethyl ether (4×100 ml), after which any remaining solvent was removed by vacuum. The product was obtained as an orange-yellow viscous liquid in a 100% yield. 1H NMR (400 MHz, DMSO-d6): δ 9.01 (2H, d, J=6.4 Hz), 8.02 (2H, d, J=6.4 Hz), 4.57 (2H, t, J=7.2 Hz, 7.2 Hz), 4.01 (1H, br), 3.37 (2H, t, J=6.4 Hz, 6.4 Hz), 2.26 (3H, s), 1.89 (2H, p, J=7.2 Hz, 7.2 Hz, 7.2 Hz, 7.2 Hz), 1.21-1.49 (6H, m).

reactant | 6-Bromo-1-hexanol | 27.61 mmol | BrCCCCCCO | C6H13BrO
reactant | 4-picoline | 30.07 mmol | N1=CC=C(C=C1)C | C6H7N
solvent | ethanol | 16 mL | C(C)O | C2H6O
product | N-(6-hydoxyhexyl)-4-picolinium bromide | 100% yield | [Br-].OCCCCCC[N+]1=CC=C(C=C1)C | InChI=1S/C12H20NO.BrH/c1-12-6-9-13(10-7-12)8-4-2-3-5-11-14;/h6-7,9-10,14H,2-5,8,11H2,1H3;1H/q+1;/p-1
